US04904680
(2S)-N-(α,α-Dimethylbenzyl)-3-benzyloxy-2-(t-butoxycarbonylamino)propionamide
11.0 g of powdery N-(t-butoxycarbonyl)-O-benzyl-L-serine were added to 200 ml of a methylene chloride solution containing 5.0 g of α,α-dimethylbenzylamine and 10.0 g of triphenylphosphine. 20 ml of a methylene chloride solution containing 8.2 g of 2,2'-dipyridyl disulfide were then added dropwise. The mixture was then stirred for 1 hour at room temperature, after which the solvent was distilled off under reduced pressure and the residue was subjected to silica gel column chromatography. The title compound was obtained as an oil from the fraction eluted with a 2:1 by volume mixture of ethyl acetate and hexane. Yield 9.2 g.

reactant | N-(t-butoxycarbonyl)-O-benzyl-L-serine | 11.0 g | C(C)(C)(C)OC(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)O | C15H21NO5
reactant | α,α-dimethylbenzylamine | 5.0 g | CC(C1=CC=CC=C1)(C)N | C9H13N
reactant | triphenylphosphine | 10.0 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2,2'-dipyridyl disulfide | 8.2 g | C1=CC=NC(=C1)SSC2=CC=CC=N2 | C10H8N2S2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | (2S)-N-(α,α-Dimethylbenzyl)-3-benzyloxy-2-(t-butoxycarbonylamino)propionamide | CC(C1=CC=CC=C1)(C)NC([C@H](COCC1=CC=CC=C1)NC(=O)OC(C)(C)C)=O | C24H32N2O4
